US07259179B2
6-(2-Methyl-1H-benzimidazol-1-yl)-N-[(1S)-1-phenylethyl]pyrazin-2-amine
In a procedure analogous to example 12, reaction of 6-chloro-N-[(1S)-1-phenylethyl]pyrazin-2-amine (120 mg, 0.51 mmol) and 2-methyl-benzimidazole (75 mg, 0.57 mmol) furnished the product (18 mg, 11%).

reactant | 6-chloro-N-[(1S)-1-phenylethyl]pyrazin-2-amine | 0.51 mmol, 120 mg | ClC1=CN=CC(=N1)N[C@@H](C)C1=CC=CC=C1 | C12H12ClN3
reactant | 2-methyl-benzimidazole | 0.57 mmol, 75 mg | CC=1NC2=C(N1)C=CC=C2 | C8H8N2
product | 6-(2-Methyl-1H-benzimidazol-1-yl)-N-[(1S)-1-phenylethyl]pyrazin-2-amine | 18 mg, 11% | CC1=NC2=C(N1C1=CN=CC(=N1)N[C@@H](C)C1=CC=CC=C1)C=CC=C2 | C20H19N5
